US05693635
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepine-5-yl) -carbonyl]phenyl]-3-(trifluoromethyl)benzamide
As described for Example 9, 0.314 g (1 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine is reacted with 0.302 g (1.4 mmol) of 3-(trifluoromethyl)benzoyl chloride in 9 ml and 0.145 g (1.4 mmol) of triethylamine for 1.5 hour at room temperature. The product is recrystallized from ethyl acetate-hexane to give 0.14 g of crystals, m.p. 190°-191° C.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1 mmol, 0.314 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 3-(trifluoromethyl)benzoyl chloride | 1.4 mmol, 0.302 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | triethylamine | 1.4 mmol, 0.145 g | C(C)N(CC)CC | C6H15N
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepine-5-yl) -carbonyl]phenyl]-3-(trifluoromethyl)benzamide | 0.14 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=CC(=CC=C3)C(F)(F)F)=O | C29H21F3N2O2
